US08871187B2
4 g (18.3 mmol) of di-tert-butyl dicarbonate and 2.6 ml (18.3 mmol) of triethylamine are added to 5 g (18.3 mmol) of ethyl 2-amino-3-(4-methoxyphenyl)-3-oxo-propanoate hydrochloride dissolved in 60 ml of tetrahydrofuran at 0° C. After stirring for 3 hours at ambient temperature, the mixture is treated with water and extracted with ethyl acetate. The organic phase is washed with a 1N aqueous solution of sodium hydrogen sulphate, and water and then dried over magnesium sulphate, filtered and concentrated. 4.1 g of ethyl 2-tert-butoxycarbonylamino-3-(4-methoxyphenyl)-3-oxo-propanoate are obtained in the form of a yellow oil with a yield of 66%.

reactant | di-tert-butyl dicarbonate | 18.3 mmol, 4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 18.3 mmol, 2.6 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-amino-3-(4-methoxyphenyl)-3-oxo-propanoate hydrochloride | 18.3 mmol, 5 g | Cl.NC(C(=O)OCC)C(=O)C1=CC=C(C=C1)OC
reactant | water | O | H2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | ethyl 2-tert-butoxycarbonylamino-3-(4-methoxyphenyl)-3-oxo-propanoate | 4.1 g, yield of 66% | C(C)(C)(C)OC(=O)NC(C(=O)OCC)C(=O)C1=CC=C(C=C1)OC | C17H23NO6
